US07297816B2
(S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoylamino]-3-(3-bromo-4-fluoro-phenyl)-propionic acid methyl ester
The title compound was prepared from 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride and 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoic acid as in Example 1, Part C. HPLC: RT=10.74 min. MS (ESI−): mass calcd. for C23H16BrCl2FN4O5S2, 662.34; m/z found, 659/661 [M−H]−. 1H NMR (500 MHz, CDCl3): 11.16 (s, 1H), 8.36 (dd, J=7.1, 0.8, 1H), 8.24 (dd, J=8.8, 0.8, 1H), 7.86 (s, 1H), 7.74 (dd, J=8.8, 7.1, 1H), 7.33 (s, 1H), 7.30-7.27 (m, 1H), 7.06 (t, J=8.3, 1H), 7.03-6.98 (m, 1H), 6.53 (d, J=7.1, 1H), 4.93 (q, J=5.8, 1H), 3.22 (s, 3H), 3.24-3.11 (m, 2H).

reactant | 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)F)Br)=O
reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=C(C(=C2)Cl)Cl | C13H7Cl2N3O4S2
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoylamino]-3-(3-bromo-4-fluoro-phenyl)-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)F)Br)NC(C1=C(C=C(C(=C1)Cl)Cl)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O)=O | C23H16BrCl2FN4O5S2
